Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abd pain, nausea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ hx of Afib, CVA on coumadin, prior SBO s/p ex-lap w/ LOA
___ who now p/w abd pain, with questionable partial SBO, 
passing flatus & loose stools 

 
Past Medical History:
High Cholesterol
Stroke
afib on Coumadin
CHF

Past Surgical History:
___'s lateral R ankle ___
Ex-lap, LOA ___ (___)
Cecal polyp removal  
C-section x2
 
Family History:
non contributory 
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 021)
    Temp: 97.5 (Tm 98.5), BP: 118/52 (118-160/52-70), HR: 48
(48-59), RR: 16, O2 sat: 96% (93-96), O2 delivery: RA  
Fluid Balance (last updated ___ @ 2143) 
  Last 8 hours  Total cumulative 124ml
    IN: Total 124ml, IV Amt Infused 124ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 124ml
    IN: Total 124ml, IV Amt Infused 124ml
    OUT:  Total 0ml, Urine Amt 0ml    
Physical exam:
Gen: NAD, AxOx3
Card: RRR, no m/r/g
Pulm:  no respiratory distress
Abd: Soft, non tender, non-distended
Ext: No edema, warm well-perfused
 
Pertinent Results:
EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: Mild cortical thinning bilaterally.  Small cortical 
hypodensities 
bilaterally are too small to characterize.  Otherwise, the 
kidneys are of 
normal and symmetric size with normal nephrogram.  There is no 
evidence of 
focal renal lesions or hydronephrosis.  There is no perinephric 
abnormality. 
  
GASTROINTESTINAL: There is a small hiatal hernia.  The stomach 
distended with 
air and fluid.  The duodenum and proximal jejunum are normal in 
caliber.  
There is circumferential wall thickening involving a segment of 
jejunum in the 
left upper quadrant (series 601, image 39).  There are several 
loops of mildly 
dilated small bowel with suspected transition points in the left 
mid abdomen 
and pelvis (series 2, image 32/58).  These loops are distal to 
the segment of 
jejunal thickening.  There is fecalization in the terminal ileum 
but the 
distal bowel is otherwise normal in caliber.  There is no 
pneumoperitoneum, or 
organized fluid collection. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is 
trace free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: Multilevel degenerative changes of the lumbar spine with 
a similar 
appearance of the compression deformity involving the L2 
vertebral body.  
There is no evidence of worrisome osseous lesions or acute 
fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
  
1.  Low-grade small-bowel obstruction with at least ___ssociated short segments of circumferential wall 
thickening. 
2.  No pneumoperitoneum or fluid collections. 

 
Brief Hospital Course:
___ w/ hx of Afib, CVA on coumadin, prior SBO s/p ex-lap w/ LOA 
___ who now p/w abd pain. She was admitted to the ACS service 
following her CT scan which was concerning for partial small 
bowel obstruction. She was kept NPO with IV fluids overnight. 
She did well overnight on HD 1 and continued to pass flatus and 
have bowel movements. Her abdominal pain resolved and she was 
given a regular diet which was well tolerated. 

On the day of discharge the patient was tolerating a regular 
diet without nausea or emesis, she was passing flatus and having 
BMs. Her abdominal pain had resolved and she was not nauseated. 
She was ambulating at her baseline and was deemed medically 
appropriate for discharge home. She should follow up with her 
primary care physician and resume all home medications following 
her discharge from the hospital. 
 
Medications on Admission:
Lasix 20 mg QD
Coumadin (2 mg x 6x weekly, 1 mg 1x weekly)
Alprazolam 0.25 mg TID:PRN
Simvastatin 80mg
Dorzolamide-Timolol eye drops BID
 
Discharge Medications:
1.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
2.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
3.  ALPRAZolam 0.25 mg PO TID  
4.  Aspirin 81 mg PO DAILY  
5.  Atenolol 25 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Simvastatin 40 mg PO QPM  
9.  Vitamin D 1000 UNIT PO DAILY  
10.  vits A-C-E-B complx-min-lutein 5,000 unit- 120 mg-60 unit 
oral unknown  
11.  ___  MD to order daily dose PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ 
evaluation of your abdominal pain and were diagnosed with a 
small bowel obstruction. You are recovering well and are now 
ready for discharge. Please follow the instructions below to 
continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___